US05028608
A solution of 0.3 g of diethyl N-{4-[2-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)ethyl]-thien-2-ylcarbonyl}-L-glutamate in 9 ml of 1N aqueous sodium hydroxide is stirred under nitrogen at ambient temperature for 72 hours. The reaction mixture is rendered slightly acidic (pH=~4) with 1N hydrochloric acid and filtered. The solid thus collected is washed with water (5 ml) and cold ethanol (5 ml) and dried to give N-{4-[2-(4-hydroxy-6-aminopyrrolo[2,3-d]pyrimidin-3-yl)ethyl]thien-2-ylcarbonyl}-L-glutamic acid.

reactant | diethyl N-{4-[2-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)ethyl]-thien-2-ylcarbonyl}-L-glutamate | 0.3 g | OC1=C2C(N=CN1CCC=1C=C(SC1)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)=NC(=C2)NC(C(C)(C)C)=O | C27H35N5O7S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 9 ml | [OH-].[Na+]
product | N-{4-[2-(4-hydroxy-6-aminopyrrolo[2,3-d]pyrimidin-3-yl)ethyl]thien-2-ylcarbonyl}-L-glutamic acid | OC1=C2C(N=CN1CCC=1C=C(SC1)C(=O)N[C@@H](CCC(=O)O)C(=O)O)=NC(=C2)N | C18H19N5O6S
